US07595345B2
B. 4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid
4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid methyl ester (2.20 g, 5.23 mmol) and lithium hydroxide (376 mg, 15.69 mmol) are reacted and purified analogous to Example 1I to give the title compound (1.77 g, 83%).

reactant | 4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid methyl ester | 5.23 mmol, 2.20 g | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC(CC)(O)CC)C)CC)C)=O | C28H36O3
reactant | lithium hydroxide | 15.69 mmol, 376 mg | [OH-].[Li+]
product | 4-{1-Ethyl-1-[4-(3-ethyl-3-hydroxy-pent-1-ynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid | 1.77 g, 83% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC(CC)(O)CC)C)C1=CC(=C(C(=O)O)C=C1)C | C27H34O3
